US05234946
1.06 g of 3-aminobenzaldehyde dimethyl acetal was dissolved in a mixture of 5 ml of toluene and 10 ml of water containing 0.8 g of sodium hydroxide, and 5 ml of a toluene solution of 1.3 g of benzoyl chloride was added. The mixture was stirred at room temperature for 2 hours. The organic layer was separated, and evaporated under reduced pressure. The residue was dissolved in a mixture of 10 ml of methanol and 10 ml of 10% hydrochloric acid, and heated at 90° C. for 30 minutes. Water (20 ml) was added to the reaction mixture to allow it to cool. There was obtained 1.16 g (yield 87.3%) of 3-benzoylaminobenzaldehyde as colorless needles having a melting point of 122° to 123° C.

reactant | 3-aminobenzaldehyde dimethyl acetal | 1.06 g | COC(C1=CC(=CC=C1)N)OC | C9H13NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzoyl chloride | 1.3 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 ml, 0.8 g | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 3-benzoylaminobenzaldehyde | 1.16 g, yield 87.3% | C(C1=CC=CC=C1)(=O)NC=1C=C(C=O)C=CC1 | C14H11NO2
